US05306728
Production of (E)-4-(3-thienyl)-3-buten-2-one
1.6 g of 3-thiophenecarboxaldehyde was dissolved in 30 ml of acetone, and 20 g of potassium carbonate was added. The mixture was stirred overnight at room temperature. The solvent was evaporated, and the residue was worked up in a customary manner. The resulting alcohol compound was dissolved in 10 ml of methylene chloride, and 1.1 ml of methanesulfonyl chloride and 2.3 ml of triethylamine were added. The mixture was stirred overnight at room temperature, and then the solvent was evaporated. The residue was worked up in a customary manner, and purified by silica gel column chromatography [hexane/ethyl acetate=40/1] to give 650 mg of the captioned compound as a pale yellow oil.

reactant | 3-thiophenecarboxaldehyde | 1.6 g | S1C=C(C=C1)C=O | C5H4OS
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 30 ml | CC(=O)C | C3H6O
product | (E)-4-(3-thienyl)-3-buten-2-one | 650 mg | S1C=C(C=C1)/C=C/C(C)=O | C8H8OS
